US07572809B2
Similar procedure as described in example 10 was used, starting from methanol and (1-chloro-5,6-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (1-methoxy-5,6-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 315(MH+).

reactant | (1-chloro-5,6-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=C(C(=CC=C12)OC)OC)NC1=NNC(=C1)C | C15H15ClN4O2
reactant | methanol | CO | CH4O
product | (1-methoxy-5,6-dimethoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | COC1=NC(=CC2=C(C(=CC=C12)OC)OC)NC1=NNC(=C1)C | C16H18N4O3
